US06780855B2
239 g of tetrabromomethane is added in portions to the solution of 105 g of 4-benzyloxy-butan-1-ol and 191 g of triphenylphosphine in 1 l of methylene chloride that is cooled to −15° C., and after the addition has been completed, it is stirred for 1 hour at 0° C. After the reaction mixture was concentrated by evaporation in a vacuum, the purification by chromatography on silica gel is carried out with a hexane-ethyl acetate gradient. 133 g of 4-benzyloxy-1-bromo-butane is obtained as an oil.

reactant | tetrabromomethane | 239 g | BrC(Br)(Br)Br | CBr4
reactant | 4-benzyloxy-butan-1-ol | 105 g | C(C1=CC=CC=C1)OCCCCO | C11H16O2
reactant | triphenylphosphine | 191 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
product | 4-benzyloxy-1-bromo-butane | 133 g | C(C1=CC=CC=C1)OCCCCBr | C11H15BrO
